US07547710B2
To a mixture of tert-butyl [6-(hydroxymethyl)-2-isobutyl-4-(4-methylphenyl)quinolin-3-yl]methylcarbamate (1.1 g, 2.5 mmol), triethylamine (0.53 ml, 3.8 mmol) and tetrahydrofuran (50 ml) was added methanesulfonyl chloride (0.3 ml, 3.8 mmol) under ice-cooling, and the mixture was stirred for 30 min. A mixture of ethyl thioglycollate (0.42 ml, 3.8 mmol), sodium hydride (60% in oil, 0.15 g, 3.8 mmol) and N,N-dimethylformamide (3 ml) were added to the reaction mixture and the mixture was stirred at room temperature for 15 min. The reaction mixture was partitioned between ethyl acetate and water and the aqueous layer was extracted with ethyl acetate. The organic layer and the extract were combined, washed with saturated brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure and the residue was purified by silica gel column chromatography to give ethyl ({[3-{[(tert-butoxycarbonyl)amino]methyl}-2-isobutyl-4-(4-methylphenyl)quinolin-6-yl]methyl}thio)acetate (1.1 g, yield 83%) as a white powder.

reactant | tert-butyl [6-(hydroxymethyl)-2-isobutyl-4-(4-methylphenyl)quinolin-3-yl]methylcarbamate | 2.5 mmol, 1.1 g | OCC=1C=C2C(=C(C(=NC2=CC1)CC(C)C)CNC(OC(C)(C)C)=O)C1=CC=C(C=C1)C | C27H34N2O3
reactant | triethylamine | 3.8 mmol, 0.53 ml | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 3.8 mmol, 0.3 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | ethyl thioglycollate | 3.8 mmol, 0.42 ml | CCOC(=O)CS | C4H8O2S
reactant | sodium hydride | 3.8 mmol, 0.15 g | [H-].[Na+]
solvent | N,N-dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | ethyl ({[3-{[(tert-butoxycarbonyl)amino]methyl}-2-isobutyl-4-(4-methylphenyl)quinolin-6-yl]methyl}thio)acetate | 1.1 g, yield 83% | C(C)(C)(C)OC(=O)NCC=1C(=NC2=CC=C(C=C2C1C1=CC=C(C=C1)C)CSCC(=O)OCC)CC(C)C | C31H40N2O4S
